US06498169B1
Synthesis of 4-[N-Methyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride
4-[N-methyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine (73 mg) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (58 mg) were condensed in the same manner as described in Example 2. The title compound was obtained after converting a free base to a tetrahydrochloride.

reactant | 4-[N-methyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine | 73 mg | CN(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCNCC1 | C21H29N3O3
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 58 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-Methyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride | Cl.Cl.Cl.Cl.CN(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C36H44N4O6.4ClH/c1-39(22-24-8-12-37-29(16-24)26-18-31(41-2)35(45-6)32(19-26)42-3)28-10-14-40(15-11-28)23-25-9-13-38-30(17-25)27-20-33(43-4)36(46-7)34(21-27)44-5;;;;/h8-9,12-13,16-21,28H,10-11,14-15,22-23H2,1-7H3;4*1H
